US09120749B2
Cyclopropyl{6-(3,5-dichloro-4-hydroxyphenyl)-4-[trans-4-(dimethylamino)cyclohexylamino]quinolin-3-yl}methanone
Following general procedure F, {6-bromo-4-[trans-4-(dimethylamino)cyclohexylamino]quinolin-3-yl}(cyclopropyl)methanone (45 mg, 0.110 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (38 mg, 0.135 mmol) to afford the desired product (32 mg, 58%) as a light yellow solid: NMR (500 MHz, CD3OD) δ 9.30 (s, 1H), 8.50 (s, 1H), 8.28 (d, J=8.8 Hz, 1H), 8.00 (d, J=8.8 Hz, 1H), 7.78 (s, 2H), 4.47 (s, 1H), 3.45 (s, 1H), 2.91 (s, 6H), 2.85 (s, 1H), 2.51 (s, 2H), 2.31 (s, 2H), 1.91-1.74 (m, 4H), 1.31-1.18 (m, 4H); ESI MS m/z 498 [C27H29Cl2N3O2+H]+; HPLC 96.9% (AUC), tR=11.50 min.

reactant | {6-bromo-4-[trans-4-(dimethylamino)cyclohexylamino]quinolin-3-yl}(cyclopropyl)methanone | 0.110 mmol, 45 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N[C@@H]1CC[C@H](CC1)N(C)C | C21H26BrN3O
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.135 mmol, 38 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
product | Cyclopropyl{6-(3,5-dichloro-4-hydroxyphenyl)-4-[trans-4-(dimethylamino)cyclohexylamino]quinolin-3-yl}methanone | 32 mg, 58% | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1N[C@@H]1CC[C@H](CC1)N(C)C)C1=CC(=C(C(=C1)Cl)O)Cl | C27H29Cl2N3O2
